US04220356
(1) Synthesis of 6,6-bis(p-dimethylaminophenyl)-6,11-dihydro-[1]benzopyrano[4,3-b]indole
7.7 g of 4,4'-bisdimethylaminobenzophenone was dissolved in 50 ml of chloroform, and the solution was stirred. Phosphorus oxychloride (5 g) and 10 ml of chloroform were added thereto, and the mixture was stirred for 30 minutes at room temperature (about 20°-30° C.). Then, 6 g of 2-(2'-hydroxyphenyl)indole was added thereto, and the mixture was stirred at room temperature for 3 hours. The mixture was heated under reflux for an additional 2 hours. The heated mixture was cooled to room temperature, and poured into ice water, and neutralized with an aqueous solution of sodium hydroxide. Furthermore, 200 to 300 ml of chloroform was added for extraction. The chloroform layer was washed with water, dried, and distilled under reduced pressure to remove the chloroform. The remaining oily substance was dissolved in a small amount of methanol by heating, and the solution was cooled. The crystals precipitated were separated by filtration, and dried to obtain 4 g of the objective compound having a melting point of 165° to 168° C.

reactant | 4,4'-bisdimethylaminobenzophenone | 7.7 g | CN(C1=CC=C(C(=O)C2=CC=C(C=C2)N(C)C)C=C1)C | C17H20N2O
reactant | Phosphorus oxychloride | 5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2'-hydroxyphenyl)indole | 6 g | OC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 to 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 6,6-bis(p-dimethylaminophenyl)-6,11-dihydro-[1]benzopyrano[4,3-b]indole | 4 g | CN(C1=CC=C(C=C1)C1(OC2=C(C=CC=C2)C=2NC3=CC=CC=C3C21)C2=CC=C(C=C2)N(C)C)C | C31H29N3O
